US05380713
C: N-(5-Dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline tert-butyl ester.
5-Dimethylamino-l-naphthalenesulfonyl chloride (5.10 g, 18.9 mmol) was added in portions to a well-stirred solution of glycyl-L-proline tert-butyl ester hydrochloride (5.00 g, 18.9 mmol) and triethylamine (5.20 mL, 37.8 mmol) in dry tetrahydrofuran (175 mL). The mixture was stirred at room temperature for 4 hours before it was diluted with ethyl acetate and washed successively with saturated sodium bicarbonate solution and brine. Following drying and solvent evaporation, the residue was chromatographed on silica gel (gradient elution with first 40% ethyl acetate in hexanes followed by 50% ethyl acetate in hexanes) and furnished 7.62 g (87%) of the title compound as a fluorescent green foam, m.p. 60°-67° C.; 1H NMR (CDCl3) δ 8.51 (dd, J=8.5, 3.3 Hz, 1H), 8.30 (d, J=8.7 Hz, 1H), 8.21-8.16 (m, 1H), 7.58-7.43 (m, 2H), 7.15 (d, J=7.4 Hz, 1H), 5.85-5.79 (m, 1H), 4.27-4.23 (m, 1H), 3.76-3.62 (m, 2H), 3.48-3.21 (m, 2H), 2.84 (s, 6H), 2.10-1.75 (m, 4H), 1.33 and 1.32 (2s, 9H); 13C NMR (CDCl3) ppm 170.84, 170.45, 165.84, 165.46, 152.04, 134.31, 134.16, 130.79, 130.16, 130.12, 129.87, 129.52, 129.47, 128.77, 123.23, 123.17, 119.22, 119.13, 115.59, 83.00, 81.82, 59.99, 59.38, 46.97, 45.98, 45.64, 44.69, 44.58, 31.41, 29.13, 28.05, 27.96, 24.49, 23.80, 22.36; IR (KBr, cm-1) 3266, 2978, 2942, 2876, 2834, 1736, 1658, 1456, 1440, 1370, 1330, 1148, 792, 626, 574; MS m/z (MH+) calcd 461.1984, obsd 461.1982.

reactant | 5-Dimethylamino-l-naphthalenesulfonyl chloride | 18.9 mmol, 5.10 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
reactant | glycyl-L-proline tert-butyl ester hydrochloride | 18.9 mmol, 5.00 g | Cl.C(C)(C)(C)OC([C@H]1N(CCC1)C(CN)=O)=O
reactant | triethylamine | 37.8 mmol, 5.20 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-Dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline tert-butyl ester | 7.62 g, 87% | C(C)(C)(C)OC([C@H]1N(CCC1)C(CNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)=O)=O | C23H31N3O5S
